US09387209B2
Step 1: Preparation of N-(3-chloro-4-fluorophenyl)propionamide
3-chloro-4-fluoroaniline (10 g, 67.32 mmol) dissolved in CH2Cl2 was added with propionyl chloride (6.6 mL, 74.10 mmol) and triethyl amine (10.2 mL, 73.58 mmol) dropwise under water bath, and the mixture was stirred for 2 h. The resulting solution was washed with water (2×50 mL) and saturated aqueous NaHCO3 solution (12 mL). The CH2Cl2 layer dried over MgSO4 was evaporated to give title compound as light purple solid (13.01 g, 96.3%). 1H NMR (400 MHz, DMSO-d6) δ 1.06 (t, J=7.6 Hz, 3H), 2.30 (q, J=7.6 Hz, 2H), 7.31 (dd, J=9.2 and 8.8 Hz, 1H), 7.44 (ddd, J=8.8 and 4 and 2.8 Hz, 1H), 7.91 (dd, J=7.2 and 2.8 Hz, 1H), 10.04 (br s, 1H); 13C NMR (100 MHz, DMSO-d6) δ 9.4, 29.4, 116.6, 116.8, 118.8, 119.0, 119.1, 120.2, 136.55, 136.58, 151.5, 153.9, 172.1;

reactant | 3-chloro-4-fluoroaniline | 67.32 mmol, 10 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | propionyl chloride | 74.10 mmol, 6.6 mL | C(CC)(=O)Cl | C3H5ClO
reactant | triethyl amine | 73.58 mmol, 10.2 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(3-chloro-4-fluorophenyl)propionamide | 13.01 g, 96.3% | ClC=1C=C(C=CC1F)NC(CC)=O | C9H9ClFNO
